US09260427B2
TEA (32.1 μl, 0.23 mmol) was added to a suspension of (S)-(2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)glycine Compound 297 (75.0 mg, 0.11 mmol), methanesulfonamide (12.1 mg, 0.13 mmol), HATU (52.6 mg, 0.14 mmol) and DMAP (1.41 mg, 0.01 mmol) in DCM (2 mL). The resultant yellow suspension was stirred at room temperature for 3 h. The reaction mixture was washed with saturated aqueous NaHCO3 (2 mL) and the mixture passed through a phase separation cartridge. The organic phase was concentrated in vacuo to afford a yellow solid. The crude product was purified by chromatography (EA/1% AcOH in hexanes) to afford 9 mg (11%) (S)-4-(tert-butyl)-N-(3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)-1-((2-(methylsulfonamido)-2-oxoethyl)amino)-1-oxopropan-2-yl)benzamide, Compound 381 as a yellow solid. LCMS-ESI (m/z) calculated for C40H49N5O6S: 727.3. found 728.0 [M+H]+, tR=10.51 min (Method 10).

reactant | (S)-(2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)glycine | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)NCC(=O)O)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C39H46N4O5
reactant | methanesulfonamide | 0.13 mmol, 12.1 mg | CS(=O)(=O)N | CH5NO2S
reactant | HATU | 0.14 mmol, 52.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
catalyst | DMAP | 0.01 mmol, 1.41 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-(tert-butyl)-N-(3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)-1-((2-(methylsulfonamido)-2-oxoethyl)amino)-1-oxopropan-2-yl)benzamide | 9 mg, 11% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)NCC(=O)NS(=O)(=O)C)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C40H49N5O6S
